US04472425
A solution of 24.85 g (0.1 mol) of 2-chloroethyl 2-(2,4-dimethylthien-3-yl)-hydrazinecarboxylate in 150 ml dry toluene is treated with 10.85 g (0.1 mol) methoxyacetylchloride, and the mixture is heated to 80° for 2 hours, vigorous HCl-formation starting at approx. 50° C. The mixture is cooled to room temperature, washed subsequently with water, 10% aqueous NaHCO3 -solution and water, dried over MgSO4 and evaporated in vacuo to yield the compound 2-chloroethyl 2-(methoxyacetyl)-2-(2,4-dimethylthien-3-yl)hydrazinecarboxylate, which may be directly reacted with NaOCH3 (see Step β).

reactant | 2-chloroethyl 2-(2,4-dimethylthien-3-yl)-hydrazinecarboxylate | 0.1 mol, 24.85 g | CC=1SC=C(C1NNC(=O)OCCCl)C | C9H13ClN2O2S
reactant | methoxyacetylchloride | 0.1 mol, 10.85 g | COCC(=O)Cl | C3H5ClO2
reactant | HCl | Cl | ClH
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloroethyl 2-(methoxyacetyl)-2-(2,4-dimethylthien-3-yl)hydrazinecarboxylate | COCC(=O)N(NC(=O)OCCCl)C1=C(SC=C1C)C | C12H17ClN2O4S
